US07323475B2
1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid (2-methoxy-ethyl)-amide
Synthesized from 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid butyl ester (can be obtained according to U.S. Pat. No. 6,093,730, October 1998, Weidmann et al.) and 2-methoxy-ethylamine in analogy to example B-5; MS-(+)-ion: M+1=339.0.

reactant | 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC(C)C)Cl | C17H20ClNO4
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | 1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid (2-methoxy-ethyl)-amide | COCCNC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC(C)C)Cl | C16H19ClN2O4
